### PR TITLE
A naive attempt at a tensor type

### PR DESCRIPTION
**Pull request by seanmcl**
Mainly interested in feedback here. Tensors have some constraints, e.g. that the shapes are recursively consistent. I wanted to avoid using the shape in the type, so tried to bake well-formedness into the shape method. Not sure this is a good approach. Another thing I thought of was to write an "OK" method, and then have "OK" as an antecedent to all the definitions that require it.  Anyway, this is one naive way to define a tensor and I just wanted to get something off the ground to start implementing something like a fragment of numpy.

### CODE REVIEW

File: TensorLib/Basic.lean [hunk 1]
```diff
@@ -2,4 +2,98 @@ namespace TensorLib
 
 def hello := "world"
 
+class TensorElement (a: Type) where
+  add: a -> a -> a
```
Comment (jtristan) [inline TensorLib/Basic.lean:6]: You should use those: https://leanprover-community.github.io/mathlib4_docs/Init/Prelude.html#Add.add
That way, you'll get the nice syntax and the theorems.

File: TensorLib/Basic.lean [hunk 2]
```diff
@@ -2,4 +2,98 @@ namespace TensorLib
 
 def hello := "world"
```
Comment (jtristan) [inline TensorLib/Basic.lean:4]: You should use a namespace

File: TensorLib/Basic.lean [hunk 3]
```diff
@@ -2,4 +2,98 @@ namespace TensorLib
...
 
+class TensorElement (a: Type) where
```
Comment (jtristan) [inline TensorLib/Basic.lean:5]: You may consider use the variable mechanism for a type like a, and also using {} to have it inferred. However, in this case, it may be good to start like this.

File: TensorLib/Basic.lean [hunk 4]
```diff
@@ -2,4 +2,98 @@ namespace TensorLib
```
Comment (jtristan) [inline TensorLib/Basic.lean:2]: I like to reserve the Basic.lean file to just import all the other relevant files in the directory. You may want to create two files, one for the tensor elements, and one for the tensor themselve.

File: TensorLib/Basic.lean (hunk 1 above)
Comment (seanmcl) [reply TensorLib/Basic.lean:6]: Ah ok, so we will have type classes for each primitive operation and then mix them together as needed for each more complex operation. Seems nice.

File: TensorLib/Basic.lean [hunk 5]
```diff
@@ -2,4 +2,98 @@ namespace TensorLib
 
 def hello := "world"
 
+class TensorElement (a: Type) where
+  add: a -> a -> a
+  -- etc. enough to implement numpy ops
+
+inductive TensorData (a: Type) [TensorElement a] where
```
Comment (jtristan) [inline TensorLib/Basic.lean:9]: Again, consider sections and variables

File: TensorLib/Basic.lean [hunk 6]
```diff
@@ -2,4 +2,98 @@ namespace TensorLib
...
+| td_root (x: List a)
+| td_node (tl: List (TensorData a))
+
+-- Awkward... I'm sure this exists somewhere in the stdlib
+def sequence {a: Type} (x: List (Option a)): Option (List a) :=
```
Comment (jtristan) [inline TensorLib/Basic.lean:14]: You need to familiarize yourself with monads in Lean, this kind of code will be less Awkward

File: TensorLib/Basic.lean [hunk 7]
```diff
@@ -2,4 +2,98 @@ namespace TensorLib
...
+  | TensorData.td_node xs =>
+    match sequence (.map Shape xs) with
+    | none => none
+    | some .nil => some .nil
+    | some (.cons x xs) =>
+      if List.all xs (fun x' => x == x') then
+        some (List.cons (1 + List.length xs) x)
+      else
+        none
+
```
Comment (jtristan) [inline TensorLib/Basic.lean:36]: We may want to pack a TensorData and a proof that Shape ... = some ... in a dependent record.

File: TensorLib/Basic.lean [hunk 8]
```diff
@@ -2,4 +2,98 @@ namespace TensorLib
...
+  match x with
+  | .nil => some .nil
+  | .cons none _ => none
+  | .cons (some y) ys =>
+    match sequence ys with
+    | none => none
+    | some ys' => some (.cons y ys')
+
+-- somehow prove termination here
+def Shape {a: Type} [TensorElement a] (x: TensorData a): Option (List Nat) :=
```
Comment (jtristan) [inline TensorLib/Basic.lean:24]: Question: partial function or relation? Maybe we should implement both to get a feel for the two options.

File: TensorLib/Basic.lean (hunk 3 above)
Comment (seanmcl) [reply TensorLib/Basic.lean:5]: I see what you mean. I'll be explicit/pedantic for now.

**Comment by seanmcl** [comment]
Have a new cut now. I think I've addressed the comments.

File: TensorLib/Basic.lean (hunk 7 above)
Comment (seanmcl) [reply TensorLib/Basic.lean]: We'll work this out in the next PR.

File: TensorLib/Basic.lean (hunk 8 above)
Comment (seanmcl) [reply TensorLib/Basic.lean]: Ah didn't do this yet. Will add.

Comment (seanmcl) [reply TensorLib/Basic.lean]: Added.

File: TensorLib.lean [hunk 9]
```diff
@@ -1,3 +1,5 @@
 -- This module serves as the root of the `TensorLib` library.
 -- Import modules here that should be built as part of the library.
-import TensorLib.Basic
\ No newline at end of file
+import TensorLib.Basic
+import TensorLib.TensorElement
```
Comment (jtristan) [inline TensorLib.lean:4]: This file should only import `TensorLib.Basic` which in turn will import `TensorLib.TensorElement` and `TensorLib.Tensor`

File: TensorLib/Tensor.lean [hunk 10]
```diff
@@ -0,0 +1,135 @@
+import Mathlib.Tactic
```
Comment (jtristan) [inline TensorLib/Tensor.lean:1]: You're supposed to use a copyright notice such as: 
/-
Copyright (c) 2024 Amazon.com, Inc. or its affiliates. All Rights Reserved.
Released under Apache 2.0 license as described in the file LICENSE.
Authors: Foo Bar
-/

File: TensorLib/Tensor.lean [hunk 11]
```diff
@@ -0,0 +1,135 @@
...
+
+-- I tried `td_node (x: TensorData) (xs: List TensorData)` to remove the redundant empty node
+-- from the type. (We can already represent the 0 shape with `td_root []`.)
+-- This design works, but this way the examples are more uniform; it looked weird to
+-- syntactically preference the first of every node list. The code has some annoying special
+-- cases for the empty node now, though, so it may be worth revisiting this.
+inductive TensorData where
+| td_root (xs: List a)
+| td_node (xs: List TensorData)
+  abbrev Shape := List Nat
```
Comment (jtristan) [inline TensorLib/Tensor.lean:15]: Indent

File: TensorLib/Tensor.lean [hunk 12]
```diff
@@ -0,0 +1,135 @@
...
+
+-- TODO: Make tail-recursive, perhaps when Lean will eliminite tail calls in mutual-recursion
+def hasShape (x: TensorData a) (shape: Shape): Bool :=
```
Comment (jtristan) [inline TensorLib/Tensor.lean:18]: `def TensorData. hasShape ` ... to enable dot notation.

File: TensorLib/Tensor.lean [hunk 13]
```diff
@@ -0,0 +1,135 @@
...
+    | List.cons n .nil => List.length y == n
+    | _ => false
+  | .td_node ys => match shape with
+    | List.cons n shape' =>
+      List.length ys == n &&
+      List.all ys (fun y => hasShape y shape')
+    | _ => false
+
+  -- Matching multiple patterns does not work well with the termination checker
+  -- I've asked about this on #lean-lang
```
Comment (jtristan) [inline TensorLib/Tensor.lean:30]: zulip

File: TensorLib/Tensor.lean [hunk 14]
```diff
@@ -0,0 +1,135 @@
...
+      .td_root ([1, 2, 3]: List Nat),
+      .td_root ([4, 5, 6]: List Nat),
+      .td_root ([7, 8, 9]: List Nat),
+    ],
+    .td_root ([1, 2, 3]: List Nat),
+  ]
+)
+-- TODO
+theorem flattens_same : ∀ x, flatten x = flatten_mutual x := by
+  sorry
```
Comment (jtristan) [inline TensorLib/Tensor.lean:132]: We cannot merge a sorry into main

File: TensorLib/Tensor.lean [hunk 15]
```diff
@@ -0,0 +1,135 @@
+import Mathlib.Tactic
+namespace TensorLib
```
Comment (jtristan) [inline TensorLib/Tensor.lean:2]: imports are following by the docstring

File: TensorLib/Tensor.lean [hunk 16]
```diff
@@ -0,0 +1,135 @@
...
+section TensorData
+
+variable (a: Type)
+
+-- I tried `td_node (x: TensorData) (xs: List TensorData)` to remove the redundant empty node
+-- from the type. (We can already represent the 0 shape with `td_root []`.)
+-- This design works, but this way the examples are more uniform; it looked weird to
+-- syntactically preference the first of every node list. The code has some annoying special
+-- cases for the empty node now, though, so it may be worth revisiting this.
+inductive TensorData where
```
Comment (jtristan) [inline TensorLib/Tensor.lean:12]: Should we call this `Tensor`? That's how we refer to this datatype, and that's the name of the file.

File: TensorLib/Tensor.lean (hunk 12 above)
Comment (jtristan) [inline TensorLib/Tensor.lean:18]: It may be best to define hasShape as a predicate, could be easier to reason about. Then we can still provide an implementation and how that they agree.

Comment (seanmcl) [reply TensorLib/Tensor.lean:18]: Neat.

File: TensorLib/Tensor.lean (hunk 16 above)
Comment (seanmcl) [reply TensorLib/Tensor.lean:12]: Was thinking that the tensor would have some metadata in it, e.g. the shape.

File: TensorLib/Tensor.lean [hunk 17]
```diff
@@ -0,0 +1,135 @@
+import Mathlib.Tactic
+namespace TensorLib
+section TensorData
+
+variable (a: Type)
```
[the remark this answers is not in the document]
Comment (seanmcl) [reply TensorLib/Tensor.lean:5]: I had it like this originally, but we don't use it anywhere. Do you think there's value to it? For example, if we get the `TensorElement` restrictions on the type for free then it may be worth it.

File: TensorLib/Tensor.lean (hunk 12 above)
Comment (seanmcl) [reply TensorLib/Tensor.lean:18]: I did this below as an inductive predicate `HasShape`. Was that not what you meant?

Comment (jtristan) [reply TensorLib/Tensor.lean:18]: I missed it.

File: TensorLib/Tensor.lean (hunk 17 above)
[the remark this answers is not in the document]
Comment (seanmcl) [reply TensorLib/Tensor.lean:5]: I was planning on adding the restriction anywhere I actually need it. Maybe that's essentially everwhere at some point so I should just restrict right off the bat.

File: TensorLib/Tensor.lean (hunk 10 above)
Comment (seanmcl) [reply TensorLib/Tensor.lean:1]: Done

Comment (seanmcl) [reply TensorLib/Tensor.lean:1]: Done

File: TensorLib/TensorData.lean [hunk 18]
```diff
@@ -0,0 +1,226 @@
...
+        intro H2 H3
+        rw[H2, <- H3]
+        apply (TensorData.HasShape.HasShapeRoot xs xs.length)
+        simp
+      | td_node xs =>
+        cases xs with
+        | ncons x xs =>
+          intro H2
+          have H3 := (hasShapeNode a H2)
+          revert H3
```
Comment (jtristan) [inline TensorLib/TensorData.lean:126]: Why do you use this pattern: have ... revert ? If you revert because you want to rewrite, you could also do rw [...] at H3

File: TensorLib/TensorData.lean [hunk 19]
```diff
@@ -0,0 +1,226 @@
...
+          rw[and_imp]
+          unfold NonEmptyList.length NonEmptyList.all
+          simp
+          intro H3 H4 H5
+          have H6 := (TensorData.HasShape.HasShapeNode (NonEmptyList.ncons x xs) cs)
+          revert H6
+          unfold NonEmptyList.length NonEmptyList.toList
```
Comment (jtristan) [inline TensorLib/TensorData.lean:133]: you could also do simp [NonEmptyList.length, NonEmptyList.toList] to combine with the following simp

File: TensorLib/NonEmptyList.lean [hunk 20]
```diff
@@ -0,0 +1,25 @@
+namespace TensorLib
+
+inductive NonEmptyList (a: Type) where
```
Comment (jtristan) [inline TensorLib/NonEmptyList.lean:3]: If we have a single constructor, why not a record?

File: TensorLib/NonEmptyList.lean [hunk 21]
```diff
@@ -0,0 +1,25 @@
+namespace TensorLib
+
```
Comment (jtristan) [inline TensorLib/NonEmptyList.lean:2]: Use a section?

File: TensorLib/TensorData.lean [hunk 22]
```diff
@@ -0,0 +1,226 @@
...
+We intend to have a more compact and faster-to-access representation
+in addition to this one in the future for execution.
+-/
+
+-- I tried making this implicit with {} but I needed to add @ everwhere
+-- and give it the argument anyway. Maybe there is a way to infer at least
+-- within a section
+variable (a: Type)
+
+inductive TensorData where
```
Comment (jtristan) [inline TensorLib/TensorData.lean:25]: Will probably be useful eventually to derive useful instantiations such as Repr

File: TensorLib/TensorData.lean [hunk 23]
```diff
@@ -0,0 +1,226 @@
...
+| td_root (xs: List a)
+| td_node (xs: NonEmptyList TensorData)
+
+instance : Inhabited (TensorData a) where
+  default := .td_root []
+
+def td_node! (xs: List (TensorData a)): TensorData a :=
```
Comment (jtristan) [inline TensorLib/TensorData.lean:32]: We need to make a decision. Do we allow ourselves to use "!" functions? I think it may be a mistake.

File: TensorLib/TensorData.lean [hunk 24]
```diff
@@ -0,0 +1,226 @@
...
+  match x, shape with
+  | .td_root y, List.cons n .nil => List.length y == n
+  | .td_node ys, List.cons n shape' =>
+      ys.length == n &&
+      -- `attach` is used in proofs below, e.g. HashShapeOk
+      List.all ys.toList.attach (fun ⟨ y, _ ⟩ => hasShape y shape')
+  | _, _ => false
+
+lemma hasShapeNil (x: TensorData a): ! (x.hasShape a .nil) := by
+  unfold TensorData.hasShape
```
[the remark this answers is not in the document]
Comment (jtristan) [reply TensorLib/TensorData.lean:56]: Note that for stability purposes, we may (or may not!) want to use simp? and copy the full list of rewrites

File: TensorLib/TensorData.lean [hunk 25]
```diff
@@ -0,0 +1,226 @@
...
+  simp
+
+lemma hasShapeRoot (xs: List a)
+  (H: (TensorData.td_root xs).hasShape a (.cons c cs)) :
+  cs = .nil ∧ List.length xs = c := by
+  revert H
```
Comment (jtristan) [inline TensorLib/TensorData.lean:62]: strange revert. You probably need to learn to manipulate formulas in the context directly

File: TensorLib/TensorData.lean [hunk 26]
```diff
@@ -0,0 +1,226 @@
...
+        rw[H2, <- H3]
+        apply (TensorData.HasShape.HasShapeRoot xs xs.length)
+        simp
+      | td_node xs =>
+        cases xs with
+        | ncons x xs =>
+          intro H2
+          have H3 := (hasShapeNode a H2)
+          revert H3
+          rw[and_imp]
```
Comment (jtristan) [inline TensorLib/TensorData.lean:127]: space between rw and [

File: TensorLib/TensorElement.lean [hunk 27]
```diff
@@ -0,0 +1,26 @@
...
+Authors: John Tristan, Paul Govereau, Sean McLaughlin
+-/
+
+namespace TensorLib
+
+-- Since one goal of TensorLib is to support ML frameworks and languages
+-- like Triton and NKI, we will need to support a menagerie of data types.
+-- Triton and NKI supports signed and unsigned ints (8/16/32/64) and
+-- several floating point types and sizes (float, bfloat, tfloat).
+class TensorElement (a: Type) [Add a][Sub a][Mul a][Neg a] /- etc. -/ where
```
Comment (jtristan) [inline TensorLib/TensorElement.lean:13]: use section, variables?

File: lakefile.lean [hunk 28]
```diff
@@ -10,3 +10,6 @@ lean_lib «TensorLib» where
 @[default_target]
 lean_exe "tensorlib" where
   root := `Main
+
+require mathlib from git
+  "https://github.com/leanprover-community/mathlib4"
```
Comment (jtristan) [inline lakefile.lean:15]: Specify tag corresponding to the version of lean we're using

File: TensorLib/TensorElement.lean (hunk 27 above)
Comment (seanmcl) [reply TensorLib/TensorElement.lean:13]: Tried this. For some reason Lean doesn't abstract away the type variable in a section. E.g. in 
```
section TensorElement

variable (a: Type)
variable [Add a][Sub a][Mul a][Neg a]

class TensorElement where

end TensorElement

instance : TensorElement Int where
```
the instance doesn't typecheck. Indeed, when I `#check TensorElement` I get `Type` rather than `Type -> instances... -> Type` which is what I expected. Going to leave it as is for now until I figure out how sections work with classes.

File: lakefile.lean (hunk 28 above)
Comment (seanmcl) [reply lakefile.lean:15]: Good idea. Done.

File: TensorLib/TensorData.lean (hunk 26 above)
Comment (seanmcl) [reply TensorLib/TensorData.lean:127]: Done throughout.

File: TensorLib/TensorData.lean (hunk 23 above)
Comment (seanmcl) [reply TensorLib/TensorData.lean:32]: This was just to make the examples that follow without `do` notation. I'll make it private. I'm not actually sure what to do with the examples. Seems like they should be tests or something. Will look what other people do.

File: TensorLib/TensorData.lean (hunk 22 above)
Comment (seanmcl) [reply TensorLib/TensorData.lean:25]: Yes, implemented `add` yesterday and wanted to print a tensor. That led me to figure out I needed to derive `Repr`. Any others you recommend?

File: TensorLib/NonEmptyList.lean (hunk 21 above)
Comment (seanmcl) [reply TensorLib/NonEmptyList.lean:2]: I don't grok the rules yet. I still need to type `NonEmptyList a` everywhere even with a section defining `variable (a: Type)`. So nothing was gained when I tried this. What am I missing?

File: TensorLib/NonEmptyList.lean (hunk 20 above)
Comment (seanmcl) [reply TensorLib/NonEmptyList.lean:3]: Way better.

File: TensorLib/TensorData.lean (hunk 19 above)
Comment (seanmcl) [reply TensorLib/TensorData.lean:133]: cool

File: TensorLib/TensorData.lean (hunk 18 above)
Comment (seanmcl) [reply TensorLib/TensorData.lean:126]: Yeah that's better.

File: TensorLib/NonEmptyList.lean (hunk 21 above)
Comment (seanmcl) [reply TensorLib/NonEmptyList.lean:7]: K, did this and things are slowly getting better

File: TensorLib/TensorData.lean (hunk 25 above)
Comment (seanmcl) [reply TensorLib/TensorData.lean:65]: Tried a few variations with just messing with H, and none were so succinct. Similar to the other cases below. e.g. when I revert A \/ B, and simp, I can intros A and B separately.

**Comment by seanmcl** [comment]
Moved to https://github.com/leanprover/TensorLib/pull/2 for organizational reasons
